US05703071
7-formyl-4-isopropyl-2-hydroxy-2,4,6-cycloheptatrien-1-one (1.95 g, 10 mmol) was dissolved in tetrahydrofuran (30 ml) and the resultant was cooled to -78° C. in a dry ice/acetone bath. A solution of n-butyllithium in hexane (1.6M, 14 ml) was added dropwise to the solution, then, the dry ice/acetone bath was removed and the resultant was stirred until insoluble matter was dissolved. An aqueous saturated ammonium chloride was added to the reaction mixture and the resultant was extracted with methylene chloride. The methylene chloride layer was washed with water, then dried over anhydrous sodium sulfate. Solvent was distilled off to give 2.72 g of 7-(α-hydroxybutyl)-4-isopropyl-2-hydroxy-2,4,6-cycloheptatrien-1-one as a reddish brown oil (yield: quantitative).

reactant | 7-formyl-4-isopropyl-2-hydroxy-2,4,6-cycloheptatrien-1-one | 10 mmol, 1.95 g | C(=O)C1=CC=C(C=C(C1=O)O)C(C)C | C11H12O3
reactant | n-butyllithium | C(CCC)[Li]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 14 ml | CCCCCC | C6H14
product | 7-(α-hydroxybutyl)-4-isopropyl-2-hydroxy-2,4,6-cycloheptatrien-1-one | 2.72 g, yield: quantitative | OC(CCC)C1=CC=C(C=C(C1=O)O)C(C)C | C14H20O3
